US06809199B2
tert-butyl 3-[5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate (103 mg) was dissolved in 1 mL of trifluoroacetic acid and stirred under nitrogen at rt for 0.75 h. The resulting reaction mixture was concentrated under reduced pressure and purified by preparative thin-layer chromatography, eluting with 95:5 CH2Cl2-2M NH3 in methanol to yield 7-(8-azabicyclo[3.2.1]oct-2-en-3-yl)-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one. Mass spectrum (ESI) 526 (M+1).

reactant | tert-butyl 3-[5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl]-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylate | 103 mg | ClC1=C(C=CC(=C1)F)C1=C2C=CC(N(C2=CC(=N1)C1=CC2CCC(C1)N2C(=O)OC(C)(C)C)C2=C(C=CC=C2Cl)Cl)=O | C32H27Cl3FN3O3
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(8-azabicyclo[3.2.1]oct-2-en-3-yl)-5-(2-chloro-4-fluorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | C12C=C(CC(CC1)N2)C2=NC(=C1C=CC(N(C1=C2)C2=C(C=CC=C2Cl)Cl)=O)C2=C(C=C(C=C2)F)Cl | C27H19Cl3FN3O
